US08258158B2
This material was made in analogy to example 1 from 4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid (0.2 g) and 4-trifluoromethoxy-aniline (0.118 g) to give the desired 4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide (0.1 g) as a white solid. MS (ESI): 461.2 MH+).

reactant | 4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid | 0.2 g | FC1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)O | C13H16FNO4S
reactant | 4-trifluoromethoxy-aniline | 0.118 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
product | 4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide | 0.1 g | FC(OC1=CC=C(C=C1)NC(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)F)(F)F | C20H20F4N2O4S
